US06448277B2
0.14 g Sodium nitrite in water is added to 1 g 4,5-dimethyl-2-nitroaniline in 3 mL conc. HCl and stirred for 1 hour at +4° C. This solution is added to a mixture of 0.67 g copper (I) cyanide, 0.98 g sodium cyanide, 0.32 g sodium carbonate, 25 mL of water and 3 mL toluene. The mixture is stirred for 12 hours at room temperature and worked up to give 0.45 g 4,5-dimethyl-2-nitrobenzonitrile. 4,5-Dimethyl-2-nitrobenzonitrile is reduced with iron power in acetic acid to yield 4,5-dimethyl-2-aminobenzonitrile. 4,5-Dimethyl-2-aminobenzonitrile is heated at reflux for 12 hours in conc. HCl to give 4,5-dimethyl-2-aminobenzoic acid. 4,5-Dimethyl-2-aminobenzoic acid is reacted with trimethylsilydiazomethane to yield methyl 4,5-dimethyl-2-aminobenzoate (Chem. Pharm. Bull. Vol. 29, (1981)).

reactant | Sodium nitrite | 0.14 g | N(=O)[O-].[Na+]
reactant | 4,5-dimethyl-2-nitroaniline | 1 g | CC1=CC(=C(N)C=C1C)[N+](=O)[O-] | C8H10N2O2
reactant | copper (I) cyanide | 0.67 g | [Cu]C#N
reactant | sodium cyanide | 0.98 g | [C-]#N.[Na+]
reactant | sodium carbonate | 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | HCl | 3 mL | Cl | ClH
solvent | water | 25 mL | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 4,5-dimethyl-2-nitrobenzonitrile | 0.45 g | CC1=CC(=C(C#N)C=C1C)[N+](=O)[O-] | C9H8N2O2
